US08304577B2
To a solution of t-butyl (1R)-1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethylcarbamate (87 mg, 0.207 mmol) in dichloromethane (1 mL) at 0° C. was added trifluoroacetic acid (0.25 mL, 3.24 mmol). The cooling bath was removed and the mixture was stirred at room temperature for 2 h. The reaction mixture was concentrated and the product was purified by reverse phase HPLC (acetonitrile/water with 0.1% TFA). The organic solvent was removed on the rotovapor and the aqueous mixture was frozen and placed on the lyophilizer to afford 1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethanamine.3TFA (85.9 mg, 63% yield, 2 steps) as a colorless amorphous semi-solid: 1H NMR (400 MHz, DMSO-d6) δ 9.84 (br. s., 1H), 8.21 (br. s., 3H), 7.38 (d, J=8.6 Hz, 2H), 6.99 (d, J=8.6 Hz, 2H), 4.41 (dt, J=9.5, 4.7 Hz, 1H), 3.83 (dd, J=9.3, 5.8 Hz, 1H), 3.75 (dd, J=9.3, 6.5 Hz, 1H), 3.41 (d, J=11.8 Hz, 2H), 3.13 (d, J=12.6 Hz, 1H), 2.94-3.07 (m, 3H), 2.92 (d, J=13.3 Hz, 1H), 2.72-2.84 (m, 4H), 2.58 (dd, J=13.5, 4.7 Hz, 1H), 2.35 (t, J=11.1 Hz, 1H), 1.87 (dq, J=12.5, 6.3 Hz, 1H), 1.23-1.48 (m, 3H), 1.13-1.22 (m, 1H), 0.96 (d, J=6.8 Hz, 3H), 0.88 (t, J=7.1 Hz, 3 H); LRMS (ESI) m/e 320.3 [(M+H)+, calcd for C19H34N3O 320.3].

reactant | t-butyl (1R)-1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethylcarbamate | 0.207 mmol, 87 mg | CC(COC1=CC=C(C=C1)[C@H](CN1CCN(CC1)C)NC(OC(C)(C)C)=O)CCC | C24H41N3O3
reactant | trifluoroacetic acid | 3.24 mmol, 0.25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-(4-(2-methylpentyloxy)phenyl)-2-(4-methylpiperazin-1-yl)ethanamine | 63% yield | CC(COC1=CC=C(C=C1)C(CN1CCN(CC1)C)N)CCC | C19H33N3O
